US07622492B2
Trifluoroacetic acid (5 mL) was added slowly to a solution of N′-(2-chloro-phenyl)-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (1.26 g, 3.0 mmol) in dichloromethane (5 mL), and the resulting solution was stirred at room temperature for 19 h. The solvent was evaporated and dichloromethane (100 mL) was added. The solution was washed with water (2×50 mL) and brine (50 mL), dried (sodium sulfate), filtered, and evaporated to give a light yellow solid. The solid was stored in the freezer over the weekend, and then triturated with 50% hexanes/diethyl ether (10 mL) and the mixture sonicated. The solid was collected by filtration, washed with ether, an air-dried to give (4R,7S)-2-(2-chloro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (790 mg, 86%) as an off-white solid.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N′-(2-chloro-phenyl)-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | 3.0 mmol, 1.26 g | C(C)(C)(C)OC(=O)NN(C(=O)C1[C@@H]2CC[C@](C1=O)(C2(C)C)C)C2=C(C=CC=C2)Cl | C22H29ClN2O4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4R,7S)-2-(2-chloro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 790 mg, 86% | ClC1=C(C=CC=C1)N1NC=2[C@]3(CC[C@@H](C2C1=O)C3(C)C)C | C17H19ClN2O
